US07662771B2
5-[5-(2-Methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester
Add 1,4-phenylenediisocyanate (14.5 g, 90.8 mmol) to a stirred solution of 1-ethynyl-2-methoxy-benzene (4.0 g, 30.3 mmol) and 6-nitro-hexanoic acid ethyl ester (8.6 g, 45.4 mmol) in toluene (300 mL, anhydrous) and stir under N2. Add triethylamine (12.7 mL, 90.8 mmol) and heat to reflux under N2. After 2.5 hours, filter mixture through a pad of Celite® and rinse with toluene. Concentrate to get 9 grams of a orange oil. Adsorb on SiO2 and purify the residue by flash chromatography on silica gel eluting with 0-20% EtOAc/hexanes to afford the title compound (14.0 g, 74%).

reactant | 1,4-phenylenediisocyanate | 90.8 mmol, 14.5 g | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | 1-ethynyl-2-methoxy-benzene | 30.3 mmol, 4.0 g | C(#C)C1=C(C=CC=C1)OC | C9H8O
reactant | 6-nitro-hexanoic acid ethyl ester | 45.4 mmol, 8.6 g | C(C)OC(CCCCC[N+](=O)[O-])=O | C8H15NO4
reactant | triethylamine | 90.8 mmol, 12.7 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[5-(2-Methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 9 grams | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC=C1)OC)=O | C17H21NO4
